US06552067B2
Analogous to the procedure described for Example 1A, Step D, 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-pyrrolidin-2-one (296 mg, 0.809 mmol) was alkylated with 4-(3-bromo-propyl)-benzoic acid methyl ester (276 mg, 1.07 mmol) over 72 h. Purification by medium pressure chromatography (1:1 hexanes:EtOAc) provided 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester (250 mg). 1H NMR (CDCl3) (selected peaks) δ7.92 (d, 2H), 7.21 (d, 2H), 7.05 (m, 2H), 6.92 (m, 2H), 3.86 (s, 3H), 3.76 (m, 1H), 3.62 (m, 1H), 3.45 (m, 1H), 0.81 (s, 9H).

reactant | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-pyrrolidin-2-one | 0.809 mmol, 296 mg | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC=C(C=C1)F)(C)C | C20H32FNO2Si
reactant | 4-(3-bromo-propyl)-benzoic acid methyl ester | 1.07 mmol, 276 mg | COC(C1=CC=C(C=C1)CCCBr)=O | C11H13BrO2
product | 4-(3-{2-[3-(tert-butyl-dimethyl-silanyloxy)-4-(4-fluoro-phenyl)-butyl]-5-oxo-pyrrolidin-1-yl}-propyl)-benzoic acid methyl ester | 250 mg | COC(C1=CC=C(C=C1)CCCN1C(CCC1=O)CCC(CC1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O | C31H44FNO4Si
